US07371730B2
To a stirred solution of 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside (220 g) and 2,6-lutidine (136 mL) in acetone (834 mL) was added ethyl chloroformate (84 mL) at about 5 to about 10° C. Thereafter the mixture was stirred at about 10 to about 20° C. for 4 hours. To the reaction mixture were added water and ethyl acetate, and the organic layer was separated. The organic layer was washed successively with a 10% aqueous solution of citric acid, brine, a 10% aqueous solution of sodium bicarbonate and brine, and dried over anhydrous sodium sulfate. The desiccant was removed by filtration, and the solvent of the filtrate was removed under reduced pressure. The residue (326 g) was dissolved in ethanol (1039 mL) under heating, and the resulting solution was treated with activated charcoal (11 g). After the mixture was stirred for 5 minutes, insoluble materials were filtered through celite. To the filtrate was added n-hexane (2046 mL) at about 30 to about 40° C. over about 45 minutes, and the resulting mixture was allowed to stand at room temperature for 17 hours. Thereafter, the mixture was stirred under ice-cooling for 2 hours, and the precipitated crystals were collected by filtration to afford crude crystals of 2-(4-methoxybenzyl)phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside (202 g).

reactant | 2-(4-methoxybenzyl)phenyl β-D-glucopyranoside | 220 g | O([C@H]1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)C1=C(C=CC=C1)CC1=CC=C(C=C1)OC | C20H24O7
reactant | 2,6-lutidine | 136 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | ethyl chloroformate | 84 mL | ClC(=O)OCC | C3H5ClO2
reactant | water | O | H2O
solvent | acetone | 834 mL | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-methoxybenzyl)phenyl 6-O-ethoxycarbonyl-β-D-glucopyranoside | 202 g | C(C)OC(=O)OC[C@@H]1[C@H]([C@@H]([C@H]([C@H](OC2=C(C=CC=C2)CC2=CC=C(C=C2)OC)O1)O)O)O | C23H28O9
